US04771043
A solution of 0.65 g of 6α-amino androsta-1,4-diene-3,17-dione in 30 ml of ethanol is treated with 21.71 ml of 0.1N HCl aqueous solution. The yellow solution is discoloured, then it is filtered and the alcohol is removed at reduced pressure. The resulting aqueous solution is lyophilized to give 0.7 g of dry 6α-amino androsta-1,4-diene-3,17-dione hydrochloride as slight yellow powder. By analogous procedure the hydrochlorides of the 6-amino derivatives prepared according to the examples 4, 7 and 9 are prepared.

reactant | 6α-amino androsta-1,4-diene-3,17-dione | 0.65 g | N[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(C=CC(C=C12)=O)C)=O | C19H25NO2
reactant | HCl | 0.1N, 21.71 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 6α-amino androsta-1,4-diene-3,17-dione hydrochloride | 0.7 g | Cl.N[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(C=CC(C=C12)=O)C)=O | InChI=1S/C19H25NO2.ClH/c1-18-7-5-11(21)9-15(18)16(20)10-12-13-3-4-17(22)19(13,2)8-6-14(12)18;/h5,7,9,12-14,16H,3-4,6,8,10,20H2,1-2H3;1H/t12-,13-,14-,16-,18+,19-;/m0./s1
